Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
concern for endocarditis
 
Major Surgical or Invasive Procedure:
TEE on ___

 
History of Present Illness:
Ms. ___ is a ___ with a history of anxiety, depression, 
R
abdominal wall and R nasal crease basal cell carcinoma,
osteoarthritis, ADHD, and vitamin D deficiency, who is 
presenting
for expedited work-up of mobile echodensity seen on aortic valve
during stress echocardiogram. 

Patient was recently seen at ___ Urgent Care for chest 
pain
on ___. At time, she reported acute onset midsternal,
non-radiating, chest pain/pressure ___ minutes upon completion
of a dance class, while speaking with her friend about stressful
situations that she was going through. Pain lasted about 10
minutes and resolved with deep breathing. Of note, patient also
reported several anxiety/panic attacks occurring throughout that
same day. ECG was unremarkable, only demonstrating sinus rhythm
with frequent PVCs. CXR was normal. Labs were also unremarkable,
although troponin was not obtained. Most likely etiology was 
felt
to be anxiety or stress-induced, and not cardiac related, 
however
a referral was placed for cardiology.

She was seen by cardiology (Dr. ___ on ___
for follow-up of same. Further history revealed that she teaches
a modern dance class which lasts 75 mins and does strength
training once a week, without ever developing exertional chest
pain, shortness of breath, palpitations, light-headedness, or
dizziness. Did report palpitations in the setting of anxiety, 
but
none when she is relaxed. Etiology of presentation to urgent 
care
was felt to be non-cardiac. However, given PVCs on ECG at urgent
care and to rule out coronary disease given family history, it
was decided to proceed with a stress echocardiogram to evaluate
for inducible ischemia and structural heart disease.

Stress echocardiogram was due to be performed today on ___.
However, testing was abandoned following obtaining limited rest
imaging, given the finding of a mobile echodensity seen on the
aortic side of the non-coronary cusp of the aortic valve,
suggestive of a vegetation vs. possible tumor, measuring 1.2 x
0.6cm, without evidence of valvular dysfunction. Remainder of
limited echo was unrevealing. Patient was referred to ___ ED
for further evaluation.

Of note, patient was also seen in ___ Urgent Care on 
___
for poor sleep and worsening anxiety/depression, likely 
secondary
to pressure surrounding upcoming dance recital in three weeks. 

Initial VS in the ED were notable for;
Temp 98.78  HR 77  BP 141/82  RR 18  SaO2 100% RA

Examination notable for;
No significant findings.

Labs were notable for;
WBC 4.0  Hgb 12.6  Plt 213
___ 11.5  PTT 30.6  INR 1.1
Na 143  K 5.0  Cl 106  HCO3 28  BUN 19  Cr 0.6  Gluc 86
Ca 9.2  Mg 2.1
Trop-T <0.01  Lactate 1.2

ECG demonstrated sinus rhythm at 66 bpm, left axis deviation,
normal intervals, no pathologic Q waves, likely early
repolarization changes in lateral/high lateral leads, and good
R-wave progression, similar to prior.

Upon arrival to the floor, patient repeats the above story.
Currently she feels well, but is anxious surrounding possible
echo finding. Denies chest pain, shortness of breath,
light-headedness, dizziness, myaligas/arthralgias, and
fevers/chills. Denies recent dental work or invasive procedures.
She endorses occasional palpitations, which correlate with her
stress and anxiety, but has not had any since her admission. She
also endorses an unintentional 10lb weight loss since ___,
but feels this is likely related to her worsening anxiety.  

 
Past Medical History:
- Anxiety
- Depression
- Basal cell carcinoma - right nasal crease, and right abdominal
wall
- Osteoarthritis
- ADHD
- Vitamin D Deficiency 
- Dyshidrotic eczema 
- Wrist surgery in ___ 
 
Social History:
___
Family History:
Father: (decreased, MI, age ___ PVD, HLD, prostate cancer
Mother (deceased): ___ disease, PE
Sister: HLD
No family history of HTN or DM. 
 
Physical Exam:
ADMISSION EXAM:
TALS: ___ 1728 Temp: 98.8 PO BP: 128/63 HR: 77 RR: 18 O2
sat: 96% O2 delivery: Ra 
GENERAL: Alert and interactive. Mildly anxious. In no acute
distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Mild blanching rash across left lower quadrant,
non-tender and non-pruritic. No ___ lesions on hands or feet
b/l.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE EXAM:
GENERAL: Alert and interactive. Mildly anxious. In no acute
distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Mild blanching rash across left lower quadrant,
non-tender and non-pruritic. No ___ lesions on hands or feet
b/l.  

 
Pertinent Results:
ADMISSION LABS:
================
___ 01:00PM BLOOD WBC-4.0 RBC-4.26 Hgb-12.6 Hct-39.0 MCV-92 
MCH-29.6 MCHC-32.3 RDW-12.4 RDWSD-41.1 Plt ___
___ 01:00PM BLOOD Neuts-49.3 ___ Monos-10.1 Eos-2.5 
Baso-0.3 Im ___ AbsNeut-1.95 AbsLymp-1.48 AbsMono-0.40 
AbsEos-0.10 AbsBaso-0.01
___ 01:00PM BLOOD ___ PTT-30.6 ___
___ 01:00PM BLOOD Glucose-86 UreaN-19 Creat-0.6 Na-143 
K-5.0 Cl-106 HCO3-28 AnGap-9*
___ 06:54AM BLOOD ALT-12 AST-15 LD(LDH)-177 AlkPhos-51 
TotBili-0.3
___ 01:00PM BLOOD cTropnT-<0.01
___ 01:00PM BLOOD Calcium-9.2 Mg-2.1
___ 01:00PM BLOOD CRP-0.7
___ 01:10PM BLOOD Lactate-1.2

DISCHARGE LABS:
===============
___ 06:54AM BLOOD WBC-3.6* RBC-3.90 Hgb-11.4 Hct-35.6 
MCV-91 MCH-29.2 MCHC-32.0 RDW-12.3 RDWSD-41.1 Plt ___
___ 06:54AM BLOOD Neuts-38.3 ___ Monos-10.1 Eos-3.9 
Baso-0.3 Im ___ AbsNeut-1.37* AbsLymp-1.68 AbsMono-0.36 
AbsEos-0.14 AbsBaso-0.01
___ 06:54AM BLOOD Glucose-97 UreaN-20 Creat-0.7 Na-143 
K-4.3 Cl-108 HCO3-26 AnGap-9*
___ 06:54AM BLOOD ___ PTT-30.6 ___

TTE:
===
IMPRESSION: Moderate sized mobile mass on the aortic side of the 
aortic valve. The location and
trace/minimal aortic regurgitation are most c/w a fibroelastoma 
or atypical/prominent Lambl's excrecent. Mild mitral 
regurgitation with normal valve morphology.

TEE:
====
IMPRESSION: Moderate sized mobile irregularly shaped echodensity 
on the aortic side of the aortic valve most c/w a fibroelastoma 
(myxoma, thrombus, vegetation also in the differential thought 
the latter is less likely given its location and lack of 
pathologic aortic regurgitation).
 
Brief Hospital Course:
___ with a history of right abdominal basal cell carcinoma, 
osteoarthritis, depression, ADHD, and vitamin D deficiency, 
presenting for expedited work-up of mobile echodensity seen on 
aortic valve during stress echocardiogram which was further 
evaluated with TEE and likely represents fibroelastoma. She was 
seen by Cardiac Surgery, can follow up as an outpatient for 
elective surgical procedure. 

TRANSITIONAL ISSUES:
=====================
- Patient will need elective surgery for aortic valve 
echodensity, patient can follow up with cardiac surgery as an 
outpatient. 
- Patient should undergo cardiac CT with contrast to evaluate 
coronaries as part of work up for surgical procedure, to be 
arranged by outpatient cardiologist. She can call to schedule an 
appointment with Dr. ___ her CT scan to discuss surgical 
intervention. 
-After resolution of aortic thrombus, can consider full stress 
test as outpatient, given that study was not completed on ___, 
pending expedited work-up for echodensity as above. 
- Patient formerly prescribed calcium and vitamin D 
supplementation, but no longer takes regularly. Should discuss 
appropriateness of restarting these medications with her PCP. 

ACUTE ISSUES:
=============
# Echodensity on Stress Test 
Mobile echodensity seen on the aortic side of the non-coronary 
cusp of the aortic valve during stress echo on ___. Patient was 
admitted for expedited workup. She underwent TEE on ___ that 
demonstrated a moderate sized 0.6cm mobile echodensity is seen 
on the aortic side of the aortic valve most c/w a fibroelastoma. 
No abscess was seen. Patient has no systemic symptoms to suggest 
endocarditis - no fevers/chills, no fatigue/malaise, no recent 
dental work, no murmur on exam. Bloodwork and CXR normal, and 
ECG unchanged from prior. 

Patient evaluated by Dr. ___ from cardiac surgery. Patient 
should undergo cardiac CT with contrast to evaluate coronaries, 
to be arranged by outpatient cardiologist. She can call to 
schedule an appointment with Dr. ___ her CT scan to 
discuss interventions. 

# Chest Pain 
Patient had acute-onset sub-sternal chest pain on ___, after 
completion of a dance class, lasting 10 minutes; resolved with 
deep breathing. Seen at ___ at the time: EKG 
unremarkable (sinus rhythm w/ PVCs), CXR normal, labs
unremarkable, although troponin was not obtained. Most likely 
etiology is anxiety or stress-induced, and not cardiac-related, 
especially has patient has never had recurrence of chest pain 
with exertion. However, patient was referred to cardiology, and 
was scheduled for a stress echocardiogram to evaluate for 
inducible ischemia and structural heart disease on ___. Study 
was not completed, given c/f echodensity, as above. Patient 
should have full stress test as outpatient, given that study was 
not completed on ___, pending expedited work-up for echodensity 
as above. 

# Depression
# Anxiety 
# Insomnia 
Patient has significant anxiety that has recently worsened in 
the context of increased work-related stress. Patient follows 
with Dr. ___ (psychopharmacologist) and ___ 
___ (talk therapist). She was continued on home medication 
regimen and has follow up with psychiatry scheduled on ___. 

CHRONIC ISSUES:
===============
# ADHD-Continue Adderall 10mg daily 

# Eczema- Continue home PRN desonide, triamcinolone creams

# Vitamin D deficiency
# Osteoporosis- Not taking calcium and vitamin D supplements as 
prescribed. 

#CODE: FULL Confirmed
#CONTACT: ___ (husband), ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.25-0.5 mg PO QHS:PRN Insomnia 
2. Mirtazapine 7.5 mg PO QHS 
3. Amphetamine-Dextroamphetamine 10 mg PO DAILY 
4. Desonide 0.05% Cream 1 Appl TP BID: PRN Itching, eczema  
5. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN Eczema 
6. BuPROPion XL (Once Daily) 300 mg PO DAILY 

 
Discharge Medications:
1.  Amphetamine-Dextroamphetamine 10 mg PO DAILY  
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  Desonide 0.05% Cream 1 Appl TP BID: PRN Itching, eczema   
4.  LORazepam 0.25-0.5 mg PO QHS:PRN Insomnia  
5.  Mirtazapine 7.5 mg PO QHS  
6.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN Eczema  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Aortic valve fibroelastoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

Why you were here?
-You came to the hospital because you had an abnormal finding on 
your outpatient stress test.

What we did while you were here?
- We did additional testing to better view the area on your 
valve, which is a fibroelastoma.
- We had the cardiac surgeons see you.

What to do when you go home?
- Please take your medications as prescribed and follow up with 
your cardiologists and the cardiac surgeon.

Your ___ Team
 
Followup Instructions:
___